US04098823
Crude spiro[3.3]heptane-3,3-dicarboxylic acid (8.3 g, 0.046 mole) was thermally decarboxylated by heating the material at 220° C for 30 min. Heating was discontinued when the evolution of carbon dioxide ceased. The mixture was cooled to yield 5.38 g of spiro[3.3]heptane-2-carboxylic acid.

reactant | spiro[3.3]heptane-3,3-dicarboxylic acid | 0.046 mole, 8.3 g | C1CC(C12CCC2)(C(=O)O)C(=O)O | C9H12O4
reactant | carbon dioxide | C(=O)=O | CO2
product | spiro[3.3]heptane-2-carboxylic acid | 5.38 g | C1C(CC12CCC2)C(=O)O | C8H12O2
